US04814344
3-(Dimethylamino)-1-(1-methyl-2-phenyl-1H-indol-3-yl)-1-propanone
A mixture of 1-(1-methyl-2-phenyl-1H-indol-3-yl)-1-ethanone (1.0 g), paraformaldehyde (191 mg) and dimethylamine hydrochloride (347 mg) in ethanol (15 ml) was stirred and heated at reflux for 30 h. The mixture was then evaporated and the residue was treated with water (150 ml) and then filtered. The filtrate was brought to pH 10 with 0.88 ammonia solution and the suspension obtained was extracted with ethyl acetate (2×125 ml). The combined organic extracts were washed with water (50 ml), dried and evaporated to leave an oil (997 mg) which was purified by column chromatography eluting with methanol to give an oil (0.50 g). This was dissolved in ether (50 ml) and extracted with 0.5M hydrochloric acid (2×50 ml). The combined acidic extracts were brought to pH 10 with 0.88 ammonia solution and the resulting precipitate was extracted with ethyl acetate (2×70 ml). The combined organic extracts were washed with water (40 ml), dried and evaporated to leave an oil (0.444 g) which was purified by preparative t.l.c. eluting with methanol to give the title compound (0.30 g) as an oil, which was crystallised from light petroleum, m.p. 55°-57°.

reactant | 1-(1-methyl-2-phenyl-1H-indol-3-yl)-1-ethanone | 1.0 g | CN1C(=C(C2=CC=CC=C12)C(C)=O)C1=CC=CC=C1 | C17H15NO
reactant | paraformaldehyde | 191 mg | C=O | CH2O
reactant | dimethylamine hydrochloride | 347 mg | Cl.CNC
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-(Dimethylamino)-1-(1-methyl-2-phenyl-1H-indol-3-yl)-1-propanone | 997 mg | CN(CCC(=O)C1=C(N(C2=CC=CC=C12)C)C1=CC=CC=C1)C | C20H22N2O
